US04980449
A three-necked, 500 ml round bottom flask equipped with thermometer, overhead stirrer and dropping funnel is charged with a solution of 21.4 g cyanogen bromide dissolved in 100 ml acetone. The system is protected from moisture by a CaCl2 drying tube and cooled to -10° C. by means of an external acetone-dry ice cooling mixture. 20.5 g of bisphenol A and 20.2 g of triethylamine are dissolved in 150 ml acetone and placed in the dropping funnel. With vigorous stirring, the bisphenol A/triethylamine solution is added to the cyanogen bromide solution over a period of 20 minutes. Temperature is kept below -5° C. Stirring is continued for an additional 40 minutes; then the reaction mixture is allowed to warm to +10° C. After completion of the reaction, the dense precipitate of triethylamine hydrobromide is removed by Buchner filtration. To the clear, colorless filtrate, 500 ml of ice cold water is added slowly and with stirring over the course of 5 minutes. A dense, crystalline precipitate of crude bisphenol A dicyanate forms, which is collected on a Buchner funnel, washed with ice cold water, rapidly dried over phosphorous pentoxide in vacuo. Crude bisphenol A dicyanate is obtained as a white crystalline solid (21.5g, 86% yield). The crude material is recrystallized three times from hexane (16g crude/l). The re-crystallized material consisted of long needles, M.P.=82°-83° C.

reactant | cyanogen bromide | 21.4 g | N#CBr | CBrN
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | bisphenol A | 20.5 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | bisphenol A triethylamine | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C(C)N(CC)CC
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
product | bisphenol A dicyanate | [O-]C#N.[O-]C#N.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C15H16O2.2CHNO/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2*2-1-3/h3-10,16-17H,1-2H3;2*3H/p-2
